US09029112B2
This example illustrates a prescreening assay used to identify variant genes encoding ketoreductases capable of reducing isopropanol in the presence of NADP+ to produce acetone and NADPH. An E. coli colony containing a plasmid encoding an engineered ketoreductase was picked using a Q-Bot® robotic colony picker (Genetix USA, Inc., Boston, Mass.) into 96-well shallow well microtiter plates containing 180 μL Terrific Broth (TB), 1% glucose and 30 μg/mL chloramphenicol (CAM). Cells were grown overnight at 30° C. with shaking at 200 rpm. A 10 μL aliquot of this culture was then transferred into 96-deep well plates containing 390 μL Terrific Broth (TB), 1 mM MgSO4 and 30 μg/mL CAM. After incubation of the deep-well plates at 30° C. with shaking at 250 rpm for 2 to 3 hours, recombinant gene expression within the cultured cells was induced by addition of IPTG to a final concentration of 1 mM. The plates were then incubated at 30° C. with shaking at 250 rpm for 18 hours.

reactant | isopropanol | C(C)(C)O | C3H8O
reactant | NADP+ | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O)C(=O)N
solvent | acetone | CC(=O)C | C3H6O
product | NADPH | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
